US04476307
3-(Dimethylaminomethylene)-2(1H,3H)-indolone
A17. 5-Chloro-3-(dimethylaminomethylene)-2(1H,3H)-indolone; 5-chlorooxindole/dimethylformamide dimethylacetal; 67%; 204°-206°.

reactant | 5-Chloro-3-(dimethylaminomethylene)-2(1H,3H)-indolone | ClC=1C=C2C(C(NC2=CC1)=O)=CN(C)C | C11H11ClN2O
reactant | 5-chlorooxindole dimethylformamide dimethylacetal | ClC=1C=C2CC(NC2=CC1)=O.COC(N(C)C)OC
product | 3-(Dimethylaminomethylene)-2(1H,3H)-indolone | CN(C)C=C1C(NC2=CC=CC=C12)=O | C11H12N2O
